US04594098
Methyl 2-(dimethylphosphinoyl)-2-(methoxymethylcarbamoyloxy)-acetate
0.2 g of triethylamine is first added to a solution of 12.5 g (0.075 mol) of methyl 2-(dimethylphosphinoyl)-2-hydroxy-acetate in 50 ml of absolute dioxane, and 6.6 g (0.075 mol) of methoxymethyl isocyanate in 20 ml of absolute dioxane are then added dropwise. The mixture is stirred at 25° for 24 hours, the solvent is stripped off and the residue is recrystallized from diisopropyl ether/ethyl acetate. 19.6 g (98%) of the desired product of melting point 101° are obtained.

reactant | methyl 2-(dimethylphosphinoyl)-2-hydroxy-acetate | 0.075 mol, 12.5 g | CP(=O)(C(C(=O)OC)O)C | C5H11O4P
reactant | methoxymethyl isocyanate | 0.075 mol, 6.6 g | COCN=C=O | C3H5NO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
product | Methyl 2-(dimethylphosphinoyl)-2-(methoxymethylcarbamoyloxy)-acetate | 19.6 g, 98% | CP(=O)(C(C(=O)OC)OC(NCOC)=O)C | C8H16NO6P
